US04087479
To a monomeric mixture of the formulation shown in Table 8 were added 10 g of tert-butyl perbenzoate and 30 g of azobisbutyronitrile. The mixture was then added dropwise over the course of 4 hours to 1,000 ml of toluene heated at 100° C. The reaction was further continued for 10 hours at 100° C, and then the toluene was removed to provide an acrylic copolymer resin having a number average molecular weight of about 20,000 and an oxirane group content of 2,150 g·eq/106 g and a softening point of 110° C. Powder paints were prepared in the same way as in Example 1 except that the polyester and the acrylic resin in the amounts shown in Table 9 were used instead of the polyester A and triglycidyl isocyanurate. The powder paints were coated, and baked at a temperature of 200° C for 30 minutes. The resulting coatings had a film thickness of 60 to 65μ and the properties shown in Table 10.

reactant | tert-butyl perbenzoate | 10 g | C1=CC=CC=C1C(=O)OOC(C)(C)C | C11H14O3
reactant | azobisbutyronitrile | 30 g | N(=NCCCC#N)CCCC#N | C8H12N4
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | acrylic copolymer resin | CCCCC(CC)COC(=O)C=C.CCCCOC(=O)C=C | InChI=1S/C11H20O2.C7H12O2/c1-4-7-8-10(5-2)9-13-11(12)6-3;1-3-5-6-9-7(8)4-2/h6,10H,3-5,7-9H2,1-2H3;4H,2-3,5-6H2,1H3
